US04254260
To a solution of ethyl 2-aminothiazol-4-ylacetate (18.6 g.) in dried methylene chloride (140 ml.) was added pyridine, and to the mixture was dropwise added a solution of mesyl chloride (17.2 g.) in dried methylene chloride (20 ml.) under ice-cooling and stirring. The mixture was further stirred for 5 hours at room temperature, and to the mixture was added a mixture of water and ethyl acetate. After adjusting the mixture to about pH 2 with 10% hydrochloric acid under ice-cooling, the precipitates were collected by filtration, washed with ethyl acetate and dried to give ethyl 2-methanesulfonamidothiazol-4-ylacetate (9.2 g.), mp 207° to 208° C.

reactant | ethyl 2-aminothiazol-4-ylacetate | 18.6 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | 17.2 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 2-methanesulfonamidothiazol-4-ylacetate | 9.2 g | CS(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C8H12N2O4S2
